US04870183
In 15 ml of dry dimethoxyethane was dissolved 5.2 g of ethyl malonate, and to the solution was added 3.8 g of a 50% sodium hydride (dispersion in an oil) with stirring under ice-cooling. To the mixture was added a solution of 20 ml of dry dimethoxyethane containing 12.3 g of 2-fluorobenzyl bromide. The mixture was stirred for 1 hour at room temperature, and then heated under reflux for 16 hours. The reaction mixture was evaporated under reduced pressure, and to the residue was acidified by an addition of diluted hydrochloric acid. The acidic mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The residue was purified by column chromatography (eluent: benzene) to obtain 8.6 g of ethyl bis(2-fluorobenzyl)malonate as a colorless oil. In a mixture of 20 ml of dimethyl sulfoxide and 1 ml of water was dissolved 8.6 g of ethyl bis(2-fluorobenzyl)malonate, and to the solution was added 4.4 g of lithium chloride. The mixture was heated at 190°-200° C. for 10 hours. After cooling, the reaction mixture was acidified by an addition of diluted hydrochloric acid. The acidic mixture was extracted with ethyl acetate, and the ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. In 50 ml of methanol was dissolved the residue, and to the solution was added 30 ml of a 2N-aqueous sodium hydroxide solution. The mixture was heated under reflux for 1 hour, and the reaction mixture was evaporated under reduced pressure. The residue was dissolved in water, and the solution was extracted with diethyl ether. The aqueous layer was acidified by an addition of hydrochloric acid, and the acidic mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform/methanol=15/1) to obtain 2.85 g of bis(2-fluorobenzyl)acetic acid as a white powder.

reactant | ethyl bis(2-fluorobenzyl)malonate | 8.6 g | FC1=C(CC(C(=O)OCC)(C(=O)[O-])CC2=C(C=CC=C2)F)C=CC=C1
reactant | lithium chloride | 4.4 g | [Cl-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | 1 ml | O | H2O
product | bis(2-fluorobenzyl)acetic acid | 2.85 g | FC1=C(CC(C(=O)O)CC2=C(C=CC=C2)F)C=CC=C1 | C16H14F2O2
